US08022222B2
Using the method of Example 3, Step B, 4-methylthiazol-2-amine (0.600 g, 5.26 mmol), ethyl 4-fluoro-3-(2-chloropyridin-4-yloxy)benzoate (1.55 g, 5.26 mmol), potassium phosphate (1.23 g, 5.78 mmol), Pd2(dba)3 (0.120 g, 0.131 mmol), and 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene (0.084 g, 0.131 mmol) were reacted to provide ethyl 4-fluoro-3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoate (1.60 g, 77% yield). 1H NMR (CDCl3) δ 10.16 (bs, 1H), 8.20 (d, 1H), 7.97 (m, 1H), 7.86 (dd, 1H), 7.26 (t, 1H), 6.48 (dd, 1H), 6.29 (d, 1H), 6.28 (d, 1H), 4.38 (q, 2H), 2.18 (s, 3H), 1.38 (t, 3H); Mass spectrum (esi) m/z 374 (100) (M+H).

reactant | 4-methylthiazol-2-amine | 5.26 mmol, 0.600 g | CC=1N=C(SC1)N | C4H6N2S
reactant | ethyl 4-fluoro-3-(2-chloropyridin-4-yloxy)benzoate | 5.26 mmol, 1.55 g | FC1=C(C=C(C(=O)OCC)C=C1)OC1=CC(=NC=C1)Cl | C14H11ClFNO3
reactant | potassium phosphate | 5.78 mmol, 1.23 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | Pd2(dba)3 | 0.131 mmol, 0.120 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene | 0.131 mmol, 0.084 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | ethyl 4-fluoro-3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoate | 1.60 g, 77% yield | FC1=C(C=C(C(=O)OCC)C=C1)OC1=CC(=NC=C1)NC=1SC=C(N1)C | C18H16FN3O3S
